US04352792
A mixture of 0.67 g of 2',6'-dihydroxy-2,4'-dimethoxyacetophenone, 3.5 g of bis-[4-(benzyloxy)-3-methoxybenzoic] anhydride and 1 g of sodium 4-(benzyloxy)-3-methoxybenzoate was heated at 180°-185° C. under reduced pressure for 3 hours. After cooling, 12 ml of 10% solution of potassium hydroxide in ethanol were added, and the mixture was refluxed under nitrogen for 30 minutes. To the cooled mixture were added 20 ml of 1 N-hydrochloric acid and 100 ml of chloroform, followed by shaking. The organic phase was separated and concentrated under reduced pressure. The residue was chromatographed on silica gel with chloroform. After recrystallization from ethyl acetate/hexane, there was obtained 0.86 g (60% yield) of 4'-(benzyloxy)-5-hydroxy-3,3',7-trimethoxyflavone as yellow crystals: m.p. 156°-157° C.

reactant | 2',6'-dihydroxy-2,4'-dimethoxyacetophenone | 0.67 g | OC1=C(C(=CC(=C1)OC)O)C(COC)=O | C10H12O5
reactant | sodium 4-(benzyloxy)-3-methoxybenzoate | 1 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)[O-])C=C1)OC.[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4'-(benzyloxy)-5-hydroxy-3,3',7-trimethoxyflavone | 0.86 g, 60% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=2OC3=CC(=CC(=C3C(C2OC)=O)O)OC)C=C1)OC | C25H22O7
